US05576343
To 107.6 ml of 5N sodium hydroxide aqueous solution was added dropwise 26.8 g of bromine at a temperature of -5° C. or below. To this was further added dropwise and slowly a 100 ml dioxane solution containing 15.0 g of 2-acetyl-5-bromo-7-methoxybenzofuran obtained in the above step a). After completion of the dropwise addition, the temperature of the resulting reaction solution was increased gradually to 60° C. and then stirred for 30 minutes. After cooling, the resulting reaction solution was adjusted to pH 2 with concentrated hydrochloric acid and then extracted with ethyl acetate. The resulting organic layer was concentrated to dryness, and crystals thus precipitated were collected by filtration to obtain 5-bromo-7-methoxy-2-benzofurancarboxylic acid. The thus obtained crystals were suspended in 200 ml of ethanol, and 10 ml of thionyl chloride was added dropwise to the suspension with stirring at room temperature. The resulting reaction solution was refluxed under heating for 2 hours. After cooling, the thus treated reaction solution was neutralized with saturated sodium bicarbonate aqueous solution, and then mixed with water to collect precipitated crystals by filtration. The crystals thus collected were purified by silica gel column chromatography using chloroform as an eluant to obtain 11.33 g of ethyl 5-bromo-7-methoxy-2-benzofurancarboxylate.

reactant | sodium hydroxide | 5N, 107.6 ml | [OH-].[Na+]
reactant | bromine | 26.8 g | BrBr | Br2
reactant | 2-acetyl-5-bromo-7-methoxybenzofuran | 15.0 g | C(C)(=O)C=1OC2=C(C1)C=C(C=C2OC)Br | C11H9BrO3
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 5-bromo-7-methoxy-2-benzofurancarboxylic acid | BrC=1C=C(C2=C(C=C(O2)C(=O)O)C1)OC | C10H7BrO4
